US07968538B2
t-Butyl 4-(5-(3-chlorobenzylamino)-2-nitrophenyl)piperazine-1-carboxylate
t-Butyl 4-(5-fluoro-2-nitrophenyl)piperazine-1-carboxylate (431 mg, 1.3 mmol), 3-chlorobenzylamine (187 mg, 1.3 mmol), N,N-diisopropylethylamine (342 mg, 1.3 mmol) were stirred at 80° C. in dry acetonitrile (25 mL) for 72 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and the crude compound was purified by silica chromatography using 25% ethyl acetate in hexanes to afford the title compound (277 mg, 48% yield). 1H NMR (400 MHz, CD3OD): δ 7.96 (d, 1H), 7.37-7.26 (m, 4H), 6.29 (d, 1H), 6.18 (s, 1H), 4.42 (s, 2H), 3.55 (m, 4H), 2.92 (m, 4H), 1.47 (s, 9H); MS (ESI) m/z: Calculated for C22H27ClN4O4: 446.17; Observed: 469.2 (M++Na).

reactant | t-Butyl 4-(5-fluoro-2-nitrophenyl)piperazine-1-carboxylate | 1.3 mmol, 431 mg | FC=1C=CC(=C(C1)N1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C15H20FN3O4
reactant | 3-chlorobenzylamine | 1.3 mmol, 187 mg | ClC=1C=C(CN)C=CC1 | C7H8ClN
reactant | N,N-diisopropylethylamine | 1.3 mmol, 342 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | t-Butyl 4-(5-(3-chlorobenzylamino)-2-nitrophenyl)piperazine-1-carboxylate | 277 mg, 48% yield | ClC=1C=C(CNC=2C=CC(=C(C2)N2CCN(CC2)C(=O)OC(C)(C)C)[N+](=O)[O-])C=CC1 | C22H27ClN4O4
